US07902356B2
1-Methyl-6-nitro-3-(2-pyrrolidin-1-yl-ethyl)-1H-indole
Treat a solution of 1-(1-methyl-6-nitro-1H-indol-3-yl)-2-pyrrolidin-1-yl-ethane-1,2-dione (5.0 g, 17.4 mmol) in THF (20 mL) with BH3.THF (70 mL of 1N in THF, 70 mmol) and stir at room temperature for 18 h. Concentrate the reaction mixture and add EtOH (100 mL) followed by 5N HCl (20 mL) and reflux for 6 h. Concentrate and dilute with 1N NaOH (100 mL). Extract with CH2Cl2 (2×), then extract with EtOAc (2×). Combine the organics, dry, and concentrate. Purify by flash chromatography using 0-10% 2N NH3/MeOH in CH2Cl2, to give the title compound (2.5 g, 53%). 1H NMR (400 MHz, DMSO-d6): δ 8.26 (d, 1H, J=2.2 Hz), 7.98 (dd, 1H, J=8.8, 1.8 Hz), 7.61 (d, 1H, is J=8.8 Hz), 7.19 (s, 1H), 3.84 (s, 3H), 2.97 (t, 2H, J=8.1 Hz), 2.76 (t, 2H, J=8.1 Hz), 2.61 (m, 4H), 1.83 (m, 4H).

reactant | 1-(1-methyl-6-nitro-1H-indol-3-yl)-2-pyrrolidin-1-yl-ethane-1,2-dione | 17.4 mmol, 5.0 g | CN1C=C(C2=CC=C(C=C12)[N+](=O)[O-])C(C(=O)N1CCCC1)=O | C15H15N3O4
reactant | BH3.THF | 70 mmol, 1N, 70 mL | B.C1CCOC1
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-Methyl-6-nitro-3-(2-pyrrolidin-1-yl-ethyl)-1H-indole | 2.5 g, 53% | CN1C=C(C2=CC=C(C=C12)[N+](=O)[O-])CCN1CCCC1 | C15H19N3O2
